US08314263B2
82 g of dry morpholine (pKb 5.67) were heated to 120° C. in a 500 ml four-necked flask having a reflux condenser, KPG stirrer and thermometer and 80 g of chloromethyltriethoxysilane were added in the course of 180 min with stirring. After the end of the addition, the temperature was reduced to 105° C. and 56.6 g of ethylenediamine (pKb 4.07) were added to the mixture in the course of 10 min with stirring, phase separation occurring. At constant temperature, stirring was effected for a further 30 min and the heavier ethylenediamine hydrochloride phase was then separated off. The upper phase was subjected to fractional distillation. 68 g (yield 68%) of 4-(triethoxysilylmethyl)tetrahydro-1,4-oxazine were obtained, the purity of which was determined as 98.4% by gas chromatography.

reactant | morpholine | 82 g | N1CCOCC1 | C4H9NO
reactant | chloromethyltriethoxysilane | 80 g | ClC[Si](OCC)(OCC)OCC | C7H17ClO3Si
reactant | ethylenediamine | 56.6 g | C(CN)N | C2H8N2
product | 4-(triethoxysilylmethyl)tetrahydro-1,4-oxazine | 68 g, yield 68% | C(C)O[Si](OCC)(OCC)CN1CCOCC1 | C11H25NO4Si
